US07214802B2
Ethyl acetimidate hydrochloride (5.0 g, 40 mmol) and cyclopropylamine (2.3 mL, 40 mL) were dissolved in 45 mL of EtOH and heated to 85° C. in a sealed pressure vessel overnight. The mixture was cooled and concentrated to provide N-cylcopropyl-acetamidine hydrochloride as a viscous oil. N-Cyclopropyl-acetamidine hydrochloride (1.00 g, 7.43 mmol) and 2-bromo-3-isopropoxy-propenal (Shilcrat, S. C. et al. J. Org. Chem., 1997, 62, 8449–8454) (1.45 g, 7.50 mmol) were dissolved in 13 mL of CHCl3 and 1.6 mL of water. Then K2CO3 (1.5 g, 11 mmol) was added and the mixture was stirred overnight. The reaction was partitioned between CH2Cl2 (60 mL) and water (30 mL). The layers were separated and the aqueous portion was extracted with CH2Cl2 (40 mL). The combined organic layers were washed with brine (30 mL), dried (MgSO4), filtered, concentrated, and chromatographed to provide 400 mg of 3-cyclopropyl-2-methyl-3H-imidazole-4-carbaldehyde.

reactant | N-Cyclopropyl-acetamidine hydrochloride | 7.43 mmol, 1.00 g | Cl.C1(CC1)NC(C)=N
reactant | 2-bromo-3-isopropoxy-propenal | 7.50 mmol, 1.45 g | BrC(C=O)=COC(C)C | C6H9BrO2
reactant | K2CO3 | 11 mmol, 1.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CHCl3 | 13 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 1.6 mL | O | H2O
product | 3-cyclopropyl-2-methyl-3H-imidazole-4-carbaldehyde | 400 mg | C1(CC1)N1C(=NC=C1C=O)C | C8H10N2O
